US06166006
In THF (10.5 ml) and methanol (5.2 ml) was dissolved methyl 7-(5-methyl-2-thienyl)-2,3-dihydro-1-benzoxepine-4- carboxylate (525 mg), and to the mixture was added 1N sodium hydroxide (10.5 ml). The mixture was stirred at room temperature for 2 hours. Under reduced pressure, the organic solvent was removed, and to the residue was added ethyl acetate. The mixture was extracted with water, and to the aqueous layer was added 6N hydrochloric acid to make the solution pH 4-5, which was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was removed to give 7-(5-methyl-2-thienyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (410 mg).

reactant | methyl 7-(5-methyl-2-thienyl)-2,3-dihydro-1-benzoxepine-4- carboxylate | 525 mg | CC1=CC=C(S1)C=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C17H16O3S
reactant | sodium hydroxide | 1N, 10.5 ml | [OH-].[Na+]
solvent | THF | 10.5 ml | C1CCOC1 | C4H8O
solvent | methanol | 5.2 ml | CO | CH4O
product | 7-(5-methyl-2-thienyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 410 mg | CC1=CC=C(S1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C16H14O3S
